### PR TITLE
[Merged by Bors] - feat: add instances for SFinite

### PR DESCRIPTION
**Pull request by RemyDegenne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean [hunk 1]
```diff
@@ -552,12 +552,22 @@ lemma sfinite_sum_of_countable {ι : Type*} [Countable ι]
...
     infer_instance
 
-instance {ι : Type*} [Countable ι] (m : ι → Measure α) [∀ n, SFinite (m n)] :
-    SFinite (Measure.sum m) := by
+instance [Countable ι] (m : ι → Measure α) [∀ n, SFinite (m n)] : SFinite (Measure.sum m) := by
   change SFinite (Measure.sum (fun i ↦ m i))
   simp_rw [← sum_sFiniteSeq (m _), Measure.sum_sum]
   apply sfinite_sum_of_countable
 
+instance instSFiniteAdd [SFinite μ] [SFinite ν] : SFinite (μ + ν) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Typeclasses.lean:560]: Is there a reason why you're naming the instance? Typically, we use unnamed instances unless there is a good reason.

Same thing below.

**Review by sgouezel — COMMENTED** [review]
bors d+

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean (hunk 1 above)
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Typeclasses.lean:560]:
```suggestion
instance [SFinite μ] [SFinite ν] : SFinite (μ + ν) := by
```

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean [hunk 2]
```diff
@@ -552,12 +552,22 @@ lemma sfinite_sum_of_countable {ι : Type*} [Countable ι]
...
+  refine ⟨fun n ↦ sFiniteSeq μ n + sFiniteSeq ν n, inferInstance, ?_⟩
+  ext s hs
+  simp only [Measure.add_apply, sum_apply _ hs]
+  rw [tsum_add ENNReal.summable ENNReal.summable, ← sum_apply _ hs, ← sum_apply _ hs,
+    sum_sFiniteSeq, sum_sFiniteSeq]
+
+instance instSFiniteRestrict [SFinite μ] (s : Set α) : SFinite (μ.restrict s) :=
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Typeclasses.lean:567]:
```suggestion
instance [SFinite μ] (s : Set α) : SFinite (μ.restrict s) :=
```

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/Typeclasses.lean]: The idea was to avoid the gigantic auto-generated names that pollute the doc search. But if I recall correctly there was an update and this is no longer a concern (or not as much) and I should go back to not naming instances.
